US08614238B2
(1R,3S)-3-Amino-cyclopentanecarboxylic acid N-biphenyl-4-yl-N-methyl-amide
351.4 mg (1.00 mmol) (1S,3R)—(N)-Fmoc-1-aminocyclopentane-3-carboxylic acid is stirred in DMF at RT. 500.0 mg (4.00 mmol) DIPEA and 417.3 mg (1.3 mmol) TBTU are added. 219.0 mg (1.0 mmol) Biphenyl-4-yl-methyl-amine hydrochloride (II.1.c) is added and the mixture is stirred at RT over night. The solvent is evaporated. The product is purified by RP-HPLC (water+5-95% acetonitrile (with addition of 0.1% TFA)) and lyophilized. The residue is taken up in DCM and diethylamine is added. After 2 hours of stirring at RT the mixture is filtered and evaporated.

reactant | DIPEA | 4.00 mmol, 500.0 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 1.3 mmol, 417.3 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | Biphenyl-4-yl-methyl-amine hydrochloride | 1.0 mmol, 219.0 mg | Cl.C1(=CC=C(C=C1)NC)C1=CC=CC=C1
reactant | DMF | CN(C)C=O | C3H7NO
product | (1R,3S)-3-Amino-cyclopentanecarboxylic acid N-biphenyl-4-yl-N-methyl-amide | C1(=CC=C(C=C1)N(C(=O)[C@H]1C[C@H](CC1)N)C)C1=CC=CC=C1 | C19H22N2O
